US08378104B2
Intermediate 40: 1-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine
A suspension of 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine hydrochloride (200 mg, 0.64 mmol) in DCM (4 mL) was cooled to 0° C. and treated with DIPEA (280 μL, 1.6 mmol). Methanesulfonyl chloride (74 μL, 0.96 mmol) was added dropwise slowly and the mixture was stirred at RT for 18 hours. The mixture was concentrated in vacuo, taken up in MeOH and purified by MDP to afford 100 mg (40%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 1.34 (s, 12H) 2.05-2.22 (m, 2H) 2.22-2.34 (m, 2H) 2.81-2.90 (m, 4H) 2.90-3.04 (m, 3H) 3.86-4.03 (m, 2H) 4.26-4.43 (m, 1H) 7.77 (s, 1H) 7.81-7.90 (m, 1H).

reactant | 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-piperidine hydrochloride | 0.64 mmol, 200 mg | Cl.CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCNCC1)C
reactant | DIPEA | 1.6 mmol, 280 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 0.96 mmol, 74 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine | 100 mg, 40% | CS(=O)(=O)N1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H26BN3O4S
